US06130229
4-(8-Chloro-5,11-dihydro[1]benz-oxepino[4,3-b]pyridin-11-ylidene)-1-(4-pyridine-acetyl)piperidine
The title compound was prepared according to the method of Example 4 from 4-(8-chloro-5,11-dihydro[1]benzoxepino[4,3-b]pyridin-11-ylidene)-piperidine, 4-pyridine-acetic acid hydrochloride, HOBT, EDCl and NMM in DMF. 4-(8-Chloro-5,11-dihydro[1]benz-oxepino[4,3-b]pyridin-11-ylidene)-1-(4-pyridine-acetyl)piperidine was obtained as a white foam; MS (CI, M+H)=432; anal.: found: C, 68.71; H, 5.44; N, 9.44; C25H22ClN3O2 requires: C, 69.52; H, 5.13; N, 9.73.

reactant | 4-(8-chloro-5,11-dihydro[1]benzoxepino[4,3-b]pyridin-11-ylidene)-piperidine | ClC1=CC2=C(C(C3=NC=CC=C3CO2)=C2CCNCC2)C=C1 | C18H17ClN2O
reactant | 4-pyridine-acetic acid hydrochloride | Cl.N1=CC=C(C=C1)CC(=O)O
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | CCN=C=NCCCN(C)C.Cl
reactant | NMM | CN1CCOCC1 | C5H11NO
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(8-Chloro-5,11-dihydro[1]benz-oxepino[4,3-b]pyridin-11-ylidene)-1-(4-pyridine-acetyl)piperidine | ClC1=CC2=C(C(C3=NC=CC=C3CO2)=C2CCN(CC2)C(CC2=CC=NC=C2)=O)C=C1 | C25H22ClN3O2
